US07692005B2
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.205 g, 0.548 mmol) and ethyl formate (0.132 mL, 1.64 mmol) were dissolved in anhydrous ethanol (1.1 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (1.00 mL, 2.74 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a pale orange precipitate. The suspension was filtered yielding an orange solid as the pure 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.178 g, 0.444 mmol, 81%).

reactant | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.548 mmol, 0.205 g | O=C1NC2=CC(=CC=C2C1)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C21H15F3N4O3
reactant | ethyl formate | 1.64 mmol, 0.132 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 1.1 mL | C(C)O | C2H6O
solvent | ethanol | 2.74 mmol, 1.00 mL | C(C)O | C2H6O
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.444 mmol, 0.178 g, 81% | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F)=O | C22H15F3N4O4
